US06492416B1
A mixed solution of 2-{4-(methylsulfonyl)phenyl}-1,8-dioxa-spiro[4,5]dec-2-en-4-one (0.55 g), [bis(trifluoroacetoxy)iodo]benzene (0.84 g) and iodine (0.45 g) in 50 ml dichloromethane was stirred for 6 hours at room temperature. Then the reaction was quenched by adding 10 ml aqueous saturated sodium thiosulfate. The organic layer was washed with brine and was concentrated under reduced pressure. The resulting crude product was purified by column chromatography (hexane/ethylacetate) to afford 0.6 g of 3-iodo-2-{4-(methylsulfonyl)phenyl}-1,8-dioxa-spiro[4,5]dec-2-en-4-one. mp: 210-213° C. NMR: δ1.60-1.72 (m, 2H), 2.11-2.44 (m, 2H), 3.12 (s, 3H), 3.80-3.90 (m, 2H), 4.04-4.14 (m, 2H), 8.21 (d, J=9 Hz, 2H), 8.41 (d, J=9 Hz, 2H). IR (cm−1): 1690, 1580, 1146, 912, 744.

reactant | 2-{4-(methylsulfonyl)phenyl}-1,8-dioxa-spiro[4,5]dec-2-en-4-one | 0.55 g | CS(=O)(=O)C1=CC=C(C=C1)C=1OC2(C(C1)=O)CCOCC2 | C15H16O5S
reactant | [bis(trifluoroacetoxy)iodo]benzene | 0.84 g | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | iodine | 0.45 g | II | I2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-iodo-2-{4-(methylsulfonyl)phenyl}-1,8-dioxa-spiro[4,5]dec-2-en-4-one | 0.6 g | IC1=C(OC2(C1=O)CCOCC2)C2=CC=C(C=C2)S(=O)(=O)C | C15H15IO5S
